US07776920B2
2,4-Bisbenzyloxy-6-ethylbenzoic acid
2,4-bisbenzyloxy-6-chlorobenzoic acid, m.p. 135-1360 (35%) and 3-chloro-2-ethyl-4-hydroxybenzoic acid from 3-chloro-2-ethyl-4-hydroxybenzaldehyde: yield 51%, m.p. 138-1390.

reactant | 2,4-bisbenzyloxy-6-chlorobenzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C21H17ClO4
reactant | 3-chloro-2-ethyl-4-hydroxybenzoic acid | ClC=1C(=C(C(=O)O)C=CC1O)CC | C9H9ClO3
reactant | 3-chloro-2-ethyl-4-hydroxybenzaldehyde | ClC=1C(=C(C=O)C=CC1O)CC | C9H9ClO2
product | 2,4-Bisbenzyloxy-6-ethylbenzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C(=CC(=C1)OCC1=CC=CC=C1)CC | C23H22O4
